US05660598
N-(1-Ethyl-3-methylpentyl)-N-propylaniline was prepared from N-(1-ethyl-3-methylpentyl)aniline and 1-bromopropane using the same method as in Example 2ii).

reactant | N-(1-ethyl-3-methylpentyl)aniline | C(C)C(CC(CC)C)NC1=CC=CC=C1 | C14H23N
reactant | 1-bromopropane | BrCCC | C3H7Br
product | N-(1-Ethyl-3-methylpentyl)-N-propylaniline | C(C)C(CC(CC)C)N(C1=CC=CC=C1)CCC | C17H29N
